US06083961
To a mixture of 3-benzyloxy-2-amino-N-methylaniline (200 mg) and methyl isothiocyanate (70.5 mg) was added tetrahydrofuran (2 ml) at ambient temperature, and the mixture was stirred for 2 days. The solvent was removed in vacuo, and the residue was dissolved in acetonitrile (2 ml). Methyl iodide (149 mg) was added thereto under ice-cooling, the mixture was stirred for 5 hours. The reaction mixture was concentrated in vacuo, and the residue was crystallized with ethyl acetate and recrystallized with acetonitrile to give 4-benzyloxy-1-methyl-2-methylamino-1H-benzimidazole (148 mg).

reactant | 3-benzyloxy-2-amino-N-methylaniline | 200 mg | C(C1=CC=CC=C1)OC=1C(=C(NC)C=CC1)N | C14H16N2O
reactant | methyl isothiocyanate | 70.5 mg | CN=C=S | C2H3NS
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-benzyloxy-1-methyl-2-methylamino-1H-benzimidazole | 148 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)NC)C | C16H17N3O
